US07273868B2
A mixture of 101 mg of 2-chloro-5-(3,4,5-trimethoxyphenylcarbonyl)-4-(3-chloro-4-methoxybenzylamino)pyrimidine prepared in above Example 1-(3), potassium cyanide 27.5 mg and palladium chloride triphenylphosphine 3 mg in dimethylformamide 3 ml is stirred at 120° C. for 7 hours. To the reaction mixture is added 4-hydroxypiperidine, and the mixture is stirred at room temperature for 1 hour. The reaction mixture is poured into water and is twice extracted with ethyl acetate. The extract is washed with water and brine in order, dried over anhydrous sodium sulfate and evaporated to dryness to give 2-cyano-5-(3,4,5-trimethoxyphenylcarbonyl)-4-(3-chloro-4-methoxybenzylamino)pyrimidine as a yellow solid, 7.5 mg. mp 140-143° C.

reactant | 2-chloro-5-(3,4,5-trimethoxyphenylcarbonyl)-4-(3-chloro-4-methoxybenzylamino)pyrimidine | 101 mg | ClC1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C22H21Cl2N3O5
reactant | potassium cyanide | 27.5 mg | [C-]#N.[K+]
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
reactant | water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | palladium chloride triphenylphosphine | 3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd](Cl)Cl
product | 2-cyano-5-(3,4,5-trimethoxyphenylcarbonyl)-4-(3-chloro-4-methoxybenzylamino)pyrimidine | C(#N)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C23H21ClN4O5
